### PR TITLE
[Merged by Bors] - feat: add a Gaussian probability distribution over ℝ

### PR DESCRIPTION
**Pull request by RemyDegenne**
- Create a new `Distributions` folder for particular probability distributions.
- Define a Gaussian distribution over ℝ by its pdf

Co-authored-by: Lorenzo Luccioli

From a project started at LftCM 2023.

---

- [ ] depends on: #7544

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/WithDensity.lean [hunk 1]
```diff
@@ -379,13 +386,55 @@ theorem set_lintegral_withDensity_eq_set_lintegral_mul_non_measurable₀ (μ : M
...
+theorem withDensity_mul (μ : Measure α) {f g : α → ℝ≥0∞} (hf : Measurable f) (hg : Measurable g) :
+    μ.withDensity (f * g) = (μ.withDensity f).withDensity g :=
+  withDensity_mul₀ hf.aemeasurable hg.aemeasurable
 #align measure_theory.with_density_mul MeasureTheory.withDensity_mul
 
+lemma withDensity_inv_same_le {μ : Measure α} {f : α → ℝ≥0∞} (hf : AEMeasurable f μ) :
+    (μ.withDensity f).withDensity f⁻¹ ≤ μ := by
+  change (μ.withDensity f).withDensity (fun x ↦ (f x)⁻¹) ≤ μ
+  rw [← withDensity_mul₀ hf hf.inv]
+  suffices (f * fun x ↦ (f x)⁻¹) ≤ᵐ[μ] 1 by
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/WithDensity.lean:405]: I think you can also write this
```suggestion
  suffices (f * f⁻¹) ≤ᵐ[μ] 1 by
```

File: Mathlib/MeasureTheory/Measure/WithDensity.lean [hunk 2]
```diff
@@ -379,13 +386,55 @@ theorem set_lintegral_withDensity_eq_set_lintegral_mul_non_measurable₀ (μ : M
   rw [restrict_withDensity hs, lintegral_withDensity_eq_lintegral_mul_non_measurable₀ _ hf h'f]
 #align measure_theory.set_lintegral_with_density_eq_set_lintegral_mul_non_measurable₀ MeasureTheory.set_lintegral_withDensity_eq_set_lintegral_mul_non_measurable₀
 
-theorem withDensity_mul (μ : Measure α) {f g : α → ℝ≥0∞} (hf : Measurable f) (hg : Measurable g) :
+theorem withDensity_mul₀ {μ : Measure α} {f g : α → ℝ≥0∞}
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/WithDensity.lean:389]: What does the `₀` stand for here?

File: Mathlib/MeasureTheory/Measure/WithDensity.lean [hunk 3]
```diff
@@ -379,13 +386,55 @@ theorem set_lintegral_withDensity_eq_set_lintegral_mul_non_measurable₀ (μ : M
...
+  filter_upwards [hf_pos, hf_ne_top] with x hf_pos hf_ne_top
+  simp only [Pi.mul_apply]
+  rw [ENNReal.mul_inv_cancel hf_pos.ne' hf_ne_top, Pi.one_apply]
+
+lemma withDensity_inv_same {μ : Measure α} {f : α → ℝ≥0∞}
+    (hf : Measurable f) (hf_pos : ∀ᵐ x ∂μ, 0 < f x) (hf_ne_top : ∀ᵐ x ∂μ, f x ≠ ∞) :
+    (μ.withDensity f).withDensity (fun x ↦ (f x)⁻¹) = μ :=
+  withDensity_inv_same₀ hf.aemeasurable hf_pos hf_ne_top
+
+lemma withDensity_absolutelyContinuous' {μ : Measure α} {f : α → ℝ≥0∞}
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/WithDensity.lean:431]: Can you add a docstring comparing this to the unprimed version?

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 4]
```diff
@@ -0,0 +1,194 @@
...
+local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y) -- Porting note: See issue lean4#2220
+
+namespace ProbabilityTheory
+
+section GaussianPdf
+
+/-- Probability density function of the gaussian distribution with mean `μ` and variance `v`. -/
+noncomputable
+def gaussianPdfReal (μ : ℝ) (v : ℝ≥0) (x : ℝ) : ℝ :=
+  ((1 : ℝ) / (Real.sqrt (2 * Real.pi * v))) * rexp (- (x - μ)^2 / (2 * v))
```
Comment (eric-wieser) [inline Mathlib/Probability/Distributions/Gaussian.lean:39]: I would guess this is easier to work with as
```suggestion
  (Real.sqrt (2 * Real.pi * v))⁻¹ * rexp (- (x - μ)^2 / (2 * v))
```

**Comment by RemyDegenne** [comment]
@eric-wieser most of your comments are about #7544 : I'll mark them resolved here and answer over there.

**Comment by RemyDegenne** [comment]
An alternative parametrization of the Gaussian would be with mean and standard deviation `s`, with value in the reals rather than the nonnegative reals. Since the pdf depends only on `s^2`, a negative value would be the same as a positive value.

Drawback: `gaussianReal 0 (-1)` looks like nonsense (a Gaussian with std dev -1?).

Advantage: if `X` has law `gaussianReal m s`, then `c*X` has law `gaussianReal (c*m) (c*s)`, no matter the sign of `c`. With the current parametrization with a variance in NNReal, if `X` has law `gaussianReal m v`, then `c*X` has law `gaussianReal (c*m) (⟨c^2, sq_nonneg _⟩ * v)`, which is not as nice. See #7674 .

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 5]
```diff
@@ -0,0 +1,194 @@
...
+end GaussianPdf
+
+section GaussianReal
+
+/-- A Gaussian distribution on `ℝ` with mean `μ` and variance `v`. -/
+noncomputable
+def gaussianReal (μ : ℝ) (v : ℝ≥0) : Measure ℝ :=
+  if v = 0 then Measure.dirac μ else volume.withDensity (gaussianPdf μ v)
+
+@[simp]
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:151]: do you really want this to be a simp lemma? I'd be happy to hide things behind the definition, not to be broken out by simp. If you need it for building your API, it might make sense to use `attribute [local simp] gaussianReal_of_var_ne_zero`.

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 6]
```diff
@@ -0,0 +1,194 @@
...
+lemma gaussianReal_apply_eq_integral (μ : ℝ) {v : ℝ≥0} (hv : v ≠ 0)
+    {s : Set ℝ} (hs : MeasurableSet s) :
+    gaussianReal μ v s = ENNReal.ofReal (∫ x in s, gaussianPdfReal μ v x) := by
+  rw [gaussianReal_apply _ hv hs, ofReal_integral_eq_lintegral_ofReal]
+  · rfl
+  · exact (integrable_gaussianPdfReal _ _).restrict
+  · exact ae_of_all _ (gaussianPdfReal_nonneg _ _)
+
+lemma gaussianReal_absolutelyContinuous (μ : ℝ) {v : ℝ≥0} (hv : v ≠ 0) :
+    gaussianReal μ v ≪ ℙ := by
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:175]:
```suggestion
    gaussianReal μ v ≪ volume := by
```
It feels strange to me to use the letter `ℙ` for an infinite measure.

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 7]
```diff
@@ -0,0 +1,194 @@
...
+  rw [gaussianReal_of_var_ne_zero _ hv]
+  exact withDensity_absolutelyContinuous _ _
+
+lemma gaussianReal_absolutelyContinuous' (μ : ℝ) {v : ℝ≥0} (hv : v ≠ 0) :
+    ℙ ≪ gaussianReal μ v := by
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:180]:
```suggestion
    volume ≪ gaussianReal μ v := by
```

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 8]
```diff
@@ -0,0 +1,194 @@
...
+  rw [gaussianReal_of_var_ne_zero _ hv]
+  refine withDensity_absolutelyContinuous' ?_ ?_ ?_
+  · exact (measurable_gaussianPdf _ _).aemeasurable
+  · exact ae_of_all _ (fun _ ↦ (gaussianPdf_pos _ hv _).ne')
+  · exact ae_of_all _ (fun _ ↦ ENNReal.ofReal_ne_top)
+
+lemma rnDeriv_gaussianReal (μ : ℝ) {v : ℝ≥0} (hv : v ≠ 0) :
+    ∂(gaussianReal μ v)/∂ℙ =ₐₛ gaussianPdf μ v := by
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:188]:
```suggestion
    ∂(gaussianReal μ v)/∂volume =ₐₛ gaussianPdf μ v := by
```

File: Mathlib/Probability/Distributions/Gaussian.lean [hunk 9]
```diff
@@ -0,0 +1,194 @@
...
+
+lemma gaussianReal_absolutelyContinuous' (μ : ℝ) {v : ℝ≥0} (hv : v ≠ 0) :
+    ℙ ≪ gaussianReal μ v := by
+  rw [gaussianReal_of_var_ne_zero _ hv]
+  refine withDensity_absolutelyContinuous' ?_ ?_ ?_
+  · exact (measurable_gaussianPdf _ _).aemeasurable
+  · exact ae_of_all _ (fun _ ↦ (gaussianPdf_pos _ hv _).ne')
+  · exact ae_of_all _ (fun _ ↦ ENNReal.ofReal_ne_top)
+
+lemma rnDeriv_gaussianReal (μ : ℝ) {v : ℝ≥0} (hv : v ≠ 0) :
```
Comment (sgouezel) [inline Mathlib/Probability/Distributions/Gaussian.lean:187]: minor nitpick, but this one is also true for `v = 0` if I'm not mistaken.

**Review by sgouezel — COMMENTED** [review]
This looks very good. I agree with you that one could also parameterize the variance with `v^2`, but I think the current choice is more natural.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
